US08314239B2
A flask charged with 7-[5-nitro-6-(trifluoromethyl)-2-pyridyl]-7-azabicyclo[2.2.1]heptane (530 mg, 1.845 mmol) and 10% Pd/C (53 mg, 0.4980 mmol) was flushed with nitrogen followed by evacuating under vacuum. Ethanol (6 mL) was added under inert atmosphere and the flask fitted with a hydrogen balloon. After 16 h of vigorous stirring the Pd/C was removed by filtration and solvent was removed under reduced pressure. The crude material was purified via silica gel chromatography (0-10% ethyl acetate in hexanes) to provide 6-(7-azabicyclo[2.2.1]heptan-7-yl)-2-(trifluoromethyl)pyridin-3-amine (381 mg, 80% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 7.17 (d, J=8.9 Hz, 1H), 6.97 (d, J=8.9 Hz, 1H), 5.03 (s, 2H), 4.29 (s, 2H), 1.59 (t, J=3.4 Hz, 4H), 1.37 (d, J=6.7 Hz, 4H).

reactant | 7-[5-nitro-6-(trifluoromethyl)-2-pyridyl]-7-azabicyclo[2.2.1]heptane | 1.845 mmol, 530 mg | [N+](=O)([O-])C=1C=CC(=NC1C(F)(F)F)N1C2CCC1CC2 | C12H12F3N3O2
catalyst | Pd/C | 0.4980 mmol, 53 mg | [Pd] | Pd
product | 6-(7-azabicyclo[2.2.1]heptan-7-yl)-2-(trifluoromethyl)pyridin-3-amine | 381 mg, 80% yield | C12CCC(CC1)N2C2=CC=C(C(=N2)C(F)(F)F)N | C12H14F3N3
